US20010022979A1
Chromium N-Acetyl Cysteine (Cr-NAC)
One half gram (1.85 mmole) of chromium chloride (CrCl3) was dissolved in 30 ml of deionized water to get a green solution. 1.5 g (9.2 mmole) of N-acetyl cysteine (NAC) was dissolved in 40 ml of deionized water were added, and the mixture was stirred for 3 hours at 40° C. until the solution turned dark green-blue.

reactant | chromium chloride | 1.85 mmole | [Cl-].[Cr+3].[Cl-].[Cl-]
reactant | N-acetyl cysteine | 9.2 mmole, 1.5 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | water | 30 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | Chromium N-Acetyl Cysteine | C(C)(=O)N[C@@H](CS)C(=O)O.[Cr] | InChI=1S/C5H9NO3S.Cr/c1-3(7)6-4(2-10)5(8)9;/h4,10H,2H2,1H3,(H,6,7)(H,8,9);/t4-;/m0./s1
